US07250410B2
7,8-dimethoxy-1-n-propyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione, XVIIac.
To a solution of 723 mg (3.06 mmol) of 7,8-dimethoxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (XVIIab), in 6 ml of anhydrous DMF, add under an inert atmosphere 134 mg (3.37 mmol) of 60% NaH in oil. After 10 minutes at room temperature, add dropwise 328 μl (3.37 mmol) of n-PrI. Allow to stand at room temperature for 3 hours. Add 40 ml of a water-ice mixture. Filter the precipitate and wash twice with 1 ml of EtOH and 3 ml of Et2O. One obtains 320 mg of the abovenamed product in the form of a white powder. Yield: 65%. 1H-NMR (DMSO, 200 MHz): d 0.66–0.73 (m, 3H, CH2CH3), 1.27–1.39 (m, 2H, CH2CH3), 3.30–4.22 (m, 10H, CH2+CH2+2×OCH3), 6.97 (s, 1H Ar), 7.13 (s, 1H Ar), 8.56 (s, 1H, NH).

reactant | 7,8-dimethoxy-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 3.06 mmol, 723 mg | COC=1C(=CC2=C(C(NCC(N2)=O)=O)C1)OC | C11H12N2O4
reactant | NaH | [H-].[Na+]
reactant | n-PrI | 3.37 mmol, 328 μl | C(CC)I | C3H7I
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 7,8-dimethoxy-1-n-propyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 320 mg, Yield: 65% | COC=1C(=CC2=C(C(NCC(N2CCC)=O)=O)C1)OC | C14H18N2O4
